US08440666B2
6-Ethoxy-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one
4-Chloro-6-ethoxy-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one (200 mg, 0.614 mmol) and 10% palladium-carbon (50 wt %, 40 mg) were stirred in methanol in a hydrogen stream at room temperature for 8 days. The reaction solution was filtered through celite and concentrated under reduced pressure to give the desired product (94% yield).

reactant | 4-Chloro-6-ethoxy-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one | 0.614 mmol, 200 mg | ClC=1C(NN=C(C1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)OCC)=O | C16H24ClN3O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium-carbon | 40 mg | [C].[Pd]
product | 6-Ethoxy-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one | 94% yield | C(C)OC=1C(=CC(NN1)=O)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C16H25N3O2
